US05994378
A mixture of 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(chloromethyl)indole-3-carbonitrile (0.65 g) and potassium iodide (0.91 g) in acetone (5 ml) was stirred at room temperature for 1 hour. The mixture was evaporated under reduced pressure and the residue was dissolved with dichloromethane. After removal of the resulting insolble mass by filtration, and the filtrate was evaporated under reduced pressure to give 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(iodomethyl)indole-3-carbonitrile (0.88 g). Methyl magnesium bromide (1M) in tetrahydrofuran solution (15 ml) was added dropwise to diethyl malonate (5.41 g) under ice-cooling. After the mixture was stirred at room temperature for 1.5 hours, 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(iodomethyl)indole-3-carbonitrile (0.88 g) was added to the mixture. After several hours, the resulting mixture was partitioned between diluted hydrochloric acid and ethyl acetate. The ethyl acetate layer was washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixture of toluene and ethyl acetate. The fractions containing the objective compounds were combined and concentrated under reduced pressure to give ethyl 3-{1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-3-cyanoindol-5-yl}-2-(ethoxycarbonyl)propionate (0.78 g).

reactant | Methyl magnesium bromide | 1M | C[Mg]Br
reactant | diethyl malonate | 5.41 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(iodomethyl)indole-3-carbonitrile | 0.88 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)CI)C#N | C26H22IN3OS
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | ethyl 3-{1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-3-cyanoindol-5-yl}-2-(ethoxycarbonyl)propionate | 0.78 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)CC(C(=O)OCC)C(=O)OCC)C#N | C33H33N3O5S
